US08067445B2
Step 3: (R)-2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-propionic acid methyl ester
(R)-2-(2′-Ethylaminomethyl-5,4′-bis-trifluoromethyl-biphenyl-3-yl)-propionic acid methyl ester (0.10 mmol) in CH2Cl2 was treated with triethylamine (0.03 mL, 0.20 mmol) and benzyl isocyanate (0.02 mL, 0.20 mmol) at room temperature for 2 hours. The mixture was worked up with CH2Cl2 and H2O to give the title compound.

reactant | (R)-2-(2′-Ethylaminomethyl-5,4′-bis-trifluoromethyl-biphenyl-3-yl)-propionic acid methyl ester | 0.10 mmol | COC([C@H](C)C=1C=C(C=C(C1)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H21F6NO2
reactant | triethylamine | 0.20 mmol, 0.03 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl isocyanate | 0.20 mmol, 0.02 mL | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | H2O | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (R)-2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-propionic acid methyl ester | COC([C@H](C)C=1C=C(C=C(C1)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C29H28F6N2O3
